US03957666
Preparation of 3-Phenoxy-3'-(m-phenoxyphenoxy)biphenyl
A 500 ml. reaction flask equipped with stirrer, condenser and Dean-Stark trap was charged with 250 g. (2.66 moles) of phenol. This was heated with stirring at 100°C. while 56 g. (1.0 mole) of potassium hydroxide was added in increments. Toluene (50 ml.) was then added to the fluld mass and water azeotroped from the system. After all toluene and water had been removed, 150 ml. of diglyme was added together with 5.0 g. (0.05 mole) of cuprous chloride and 1.0 g. of copper powder. To this mixture 20 g. (0.053 mole) of 3-chloro-3'-(m-phenoxyphenoxy)biphenyl in diglyme was added over a 30 minute period. Diglyme was distilled from the mixture which was then heated at 240° for 18 hrs. On cooling the mixture was slurried in 200 ml. of ether and salts were filtered off. The ethereal solution was washed with 25% potassium hydroxide solution, water until neutral and then dried over magnesium sulfate. The ether was removed under vacuum and the resulting oil distilled to give 13.1 g. of the desired product, bp 248°-253° /0.06 mm., nD25 1.6474.

reactant | phenol | 2.66 moles | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 1.0 mole | [OH-].[K+]
reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-chloro-3'-(m-phenoxyphenoxy)biphenyl | 0.053 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H17ClO2
solvent | diglyme | COCCOCCOC | C6H14O3
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 3-Phenoxy-3'-(m-phenoxyphenoxy)biphenyl | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C30H22O3
